US03946019
A solution of α-aminooxyphenylacetic acid hydrochloride (15.0 g.) in water (6.6 cc.) is added to a stirred boiling solution of 7H-indolizino[5,6,7-ij]isoquinoline-7-one (15.0 g.) in ethanol (450 cc.) and pyridine (583 g.). Boiling is maintained for 2 hours 30 minutes. After cooling, the yellow crystals obtained are filtered off and then washed with 90% ethanol, then with absolute ethanol and finally with diethyl ether. After drying, 7-(α-carboxybenzyloxyimino)-7H-indolizino[5,6,7-ij]isoquinoline (17.7 g.), melting at 200° C. with decomposition, is obtained.

reactant | α-aminooxyphenylacetic acid hydrochloride | 15.0 g | Cl.NOC(C(=O)O)C1=CC=CC=C1
reactant | 7H-indolizino[5,6,7-ij]isoquinoline-7-one | 15.0 g | C1=CC=C2C=CN=C3C2=C1N1C=CC=C1C3=O | C14H8N2O
solvent | water | 6.6 cc | O | H2O
solvent | ethanol | 450 cc | C(C)O | C2H6O
solvent | pyridine | 583 g | N1=CC=CC=C1 | C5H5N
product | 7-(α-carboxybenzyloxyimino)-7H-indolizino[5,6,7-ij]isoquinoline | 17.7 g | C(=O)(O)C(C1=CC=CC=C1)ON=C1C2=CC=CN2C=2C=CC=C3C=CN=C1C23 | C22H15N3O3
